US04294960
2-(2-Formamidothiazol-4-yl)-2-propargyloxyiminoacetic acid (syn isomer, 1.27 g.), N,N-dimethylformamide (400 mg.), phosphoryl chloride (850 mg.) and ethyl acetate (11.2 ml.) were treated in a conventional manner to give the activated acid solution. The activated acid solution was added to a solution of 7-amino-3-chloro-3-cephem-4-carboxylic acid hydrochloride (2 g.), trimethylsilylacetamide (6 g.) and bis(trimethylsilyl)acetamide (3 ml.) in ethyl acetate (40 ml.) at -15° C. all at once, and stirred at -5° to -10° C. for 1.5 hours. After adding water (30 ml.) to the resultant solution, the ethyl acetate layer was separated and extracted with a saturated aqueous solution of sodium bicarbonate. Ethyl acetate was added to the aqueous extract, adjusted to pH 2.0 with 10% hydrochloric acid. The ethyl acetate layer was separated, washed with water, dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo, and the residue was crystallized with a mixture of ethyl acetate and diisopropyl ether. The precipitates were collected by filtration and dried to give 7-[2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.5 g.), yellow powder.

reactant | 2-(2-Formamidothiazol-4-yl)-2-propargyloxyiminoacetic acid | 1.27 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC#C | C9H7N3O4S
reactant | phosphoryl chloride | 850 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-chloro-3-cephem-4-carboxylic acid hydrochloride | 2 g | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O
reactant | trimethylsilylacetamide | 6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 3 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 11.2 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 400 mg | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-propargyloxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCC#C | C16H12ClN5O6S2
